US08017601B2
2-amino-3-bromo-5-methylbenzamide
2-amino-3-bromo-5-methylbenzoic acid (2.06 g, 8.95 mmol) was dissolved in DMF (19 ml) and EDC (2.10 g, 11.0 mmol), HOAt (1.56 g, 11.5 mmol), ammonium chloride (2.03 g, 38.0 mmol), and iPr2NEt (6.5 ml, 37.3 mmol) were added. The reaction was stirred at room temperature under nitrogen for 21.5 hours, and then poured into water (50 ml), resulting in the formation of a precipitate. The suspension was filtered and the solid was washed with water and dried in vacuo to give title compound (1.83 g, 89%). MS (ESI pos. ion) m/z: 229 (M+H). Calc'd Exact Mass for C8H9BrN2O: 228.

reactant | 2-amino-3-bromo-5-methylbenzoic acid | 8.95 mmol, 2.06 g | NC1=C(C(=O)O)C=C(C=C1Br)C | C8H8BrNO2
reactant | EDC | 11.0 mmol, 2.10 g
reactant | HOAt | 11.5 mmol, 1.56 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | ammonium chloride | 38.0 mmol, 2.03 g | [Cl-].[NH4+]
reactant | iPr2NEt | 37.3 mmol, 6.5 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 19 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 2-amino-3-bromo-5-methylbenzamide | 1.83 g, 89% | NC1=C(C(=O)N)C=C(C=C1Br)C | C8H9BrN2O
